US05436244
STEP A: 5,6-dichloro-2,3-dihydro-1H-inden-1-one
A mixture of 20 g of 3-(3,4-dichlorophenyl)-propionic acid [J. Med. Chem., Vol. 16(2) (1973), p. 101-106] and 100 ml of thionyl chloride was refluxed for 30 minutes and the thionyl chloride was then evaporated. The residue was taken up in 20 ml of methylene chloride and the solution was poured into a suspension of 20 g of aluminum chloride in 150 ml of methylene chloride. The mixture was stirred for one hour at room temperature and 30 minutes at 50° C. The mixture was poured over ice and was stirred for 30 minutes and then was extracted with methylene chloride.

reactant | 3-(3,4-dichlorophenyl)-propionic acid | 20 g | ClC=1C=C(C=CC1Cl)CCC(=O)O | C9H8Cl2O2
solvent | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | 5,6-dichloro-2,3-dihydro-1H-inden-1-one | ClC=1C=C2CCC(C2=CC1Cl)=O | C9H6Cl2O
